US06005103
3-[(Cyclohexylthio)phenylmethyl]-4-hydroxy-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), benzaldehyde (0.593 mL, 5.84 mmol), cyclohexylmercaptan (1.68 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 189-191° C.; 1H NMR (400 MHz, DMSO-d6) δ1.21 (m, 5 H), 1.52 (m, 1 H), 1.91 (m, 2 H), 2.58 (m, 2 H), 5.37 (s, 1 H), 6.70 (s, 1 H), 7.17 (t, 1 H), 7.53 (m, 5 H), 7.74 (m, 2 H), 11.96 (bs, 1 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | benzaldehyde | 5.84 mmol, 0.593 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | cyclohexylmercaptan | 13.8 mmol, 1.68 mL | C1(CCCCC1)S | C6H12S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[(Cyclohexylthio)phenylmethyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCCC1)SC(C=1C(OC(=CC1O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H24O3S
